US07279302B2
Production of Recombinant Arogenate Dehydrogenase
Eshcerichia coli AT2471 cells were transformed with each one of the plasmids pET21-TyrA-AT obtained in example 3, and then cultured at 37° C. in 2 liters of Luria-Bertani medium supplemented with 100 μg/ml of carbenicillin. When the culture had reached the equivalent of an absorbance at 600 nm (A600) of 0.6, 1 mM of isopropyl-β-D-thiogalactoside was added to the culture medium in order to induce recombinant protein synthesis. The cells were then cultured for 16 h at 28° C., harvested, and then centrifuged for 20 min at 40 000 g. The pellet was then resuspended in a 50 mM Tris-HC1 buffer, pH 7.5, containing 1 mM EDTA, 1 mM dithiothreitol, 1 mM benzamidine HCl and 5 mM aminocaproic acid, and then sonicated (100 pulses every 3 seconds at power 5) with a Vibra-Cell disrupter (Sonics and Materials, Danbury, Conn., USA). The crude extracts thus obtained were then centrifuged for 20 min at 40 000 g, and the supernatants were used directly for the enzyme assays.

reactant | carbenicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)C(C=3C=CC=CC3)C(=O)O)C(=O)O)C | C17H18N2O6S
reactant | isopropyl-β-D-thiogalactoside | 1 mM | CC(C)S[C@H]1[C@@H]([C@H]([C@H]([C@H](O1)CO)O)O)O | C9H18O5S
reactant | EDTA | 1 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | dithiothreitol | 1 mM | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | benzamidine HCl | 1 mM | Cl.C(C1=CC=CC=C1)(=N)N
reactant | aminocaproic acid | 5 mM | C(CCC(=O)O)CCN | C6H13NO2
product | Arogenate | C1=CC(C=CC1O)(CC(C(=O)O)N)C(=O)O | C10H13NO5
